US05552398
eq-Quinolizidin-2-ylmethyl-1-ethylindole-3-carboxylate (E16)
eq-2-Hydroxymethylquinolizidine (N. J. Leonard et al, J. Org. Chem., 1957, 22, 1445) was reacted with the acid chloride of 1-ethylindole-3-carboxylic acid using the method of Example 1. The product was chromatographed on silica gel eluting with ethyl acetate to afford the title compound (E16) as a pale yellow oil. This was converted to its hydrochloride salt mp 168°-172° C.

reactant | 2-Hydroxymethylquinolizidine | OCC1CC2CCCCN2CC1 | C10H19NO
reactant | 1-ethylindole-3-carboxylic acid | C(C)N1C=C(C2=CC=CC=C12)C(=O)O | C11H11NO2
product | Quinolizidin-2-ylmethyl-1-ethylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CN(C2=CC=CC=C12)CC | C21H28N2O2
